* d:\hackathon\finalsubmission\finalsubmission.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
map1 -a a net-_map1-pad3_ net-_map1-pad3_ CMOSP W=100u L=100u M=1
man1 -a a -c -c CMOSN W=100u L=100u M=1
mbp1 -b -c net-_mbp1-pad3_ net-_mbp1-pad3_ CMOSP W=100u L=100u M=1
mbn1 -b -c -c -c CMOSN W=100u L=100u M=1
mbp2 -c -c net-_mbp2-pad3_ net-_mbp2-pad3_ CMOSP W=100u L=100u M=1
mbn2 -c -c -c -c CMOSN W=100u L=100u M=1
mbp3 -c -c net-_mbp3-pad3_ net-_mbp3-pad3_ CMOSP W=100u L=100u M=1
mbn3 -c -c -c -c CMOSN W=100u L=100u M=1
m111 net-_m111-pad1_ -a net-_m111-pad3_ net-_m111-pad3_ CMOSP W=100u L=100u M=1
m112 net-_m111-pad1_ -c net-_m111-pad3_ net-_m111-pad3_ CMOSP W=100u L=100u M=1
m121 net-_m121-pad1_ a net-_m111-pad1_ net-_m111-pad1_ CMOSP W=100u L=100u M=1
m122 net-_m121-pad1_ -b net-_m111-pad1_ net-_m111-pad1_ CMOSP W=100u L=100u M=1
m123 net-_m121-pad1_ -c net-_m111-pad1_ net-_m111-pad1_ CMOSP W=100u L=100u M=1
m131 net-_m131-pad1_ -a net-_m121-pad1_ net-_m121-pad1_ CMOSP W=100u L=100u M=1
m132 net-_m131-pad1_ -c net-_m121-pad1_ net-_m121-pad1_ CMOSP W=100u L=100u M=1
m133 net-_m131-pad1_ -c net-_m121-pad1_ net-_m121-pad1_ CMOSP W=100u L=100u M=1
m141 net-_m1111-pad1_ -c net-_m131-pad1_ net-_m131-pad1_ CMOSP W=100u L=100u M=1
m142 net-_m1111-pad1_ -b net-_m131-pad1_ net-_m131-pad1_ CMOSP W=100u L=100u M=1
m143 net-_m1111-pad1_ -a net-_m131-pad1_ net-_m131-pad1_ CMOSP W=100u L=100u M=1
m1211 net-_m1111-pad1_ a net-_m1211-pad3_ net-_m1211-pad3_ CMOSN W=100u L=100u M=1
m1221 net-_m1211-pad3_ -b net-_m1221-pad3_ net-_m1221-pad3_ CMOSN W=100u L=100u M=1
m1311 net-_m1111-pad1_ -a net-_m1311-pad3_ net-_m1311-pad3_ CMOSN W=100u L=100u M=1
m1321 net-_m1311-pad3_ -c net-_m1321-pad3_ net-_m1321-pad3_ CMOSN W=100u L=100u M=1
m1331 net-_m1321-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m1411 net-_m1111-pad1_ -a net-_m1411-pad3_ net-_m1411-pad3_ CMOSN W=100u L=100u M=1
m1421 net-_m1411-pad3_ -b net-_m1421-pad3_ net-_m1421-pad3_ CMOSN W=100u L=100u M=1
m1431 net-_m1421-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m1111 net-_m1111-pad1_ -a net-_m1111-pad3_ net-_m1111-pad3_ CMOSN W=100u L=100u M=1
m1121 net-_m1111-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m1231 net-_m1221-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m211 net-_m211-pad1_ -a net-_m211-pad3_ net-_m211-pad3_ CMOSP W=100u L=100u M=1
m212 net-_m211-pad1_ -b net-_m211-pad3_ net-_m211-pad3_ CMOSP W=100u L=100u M=1
m221 net-_m221-pad1_ -b net-_m211-pad1_ net-_m211-pad1_ CMOSP W=100u L=100u M=1
m222 net-_m221-pad1_ -c net-_m211-pad1_ net-_m211-pad1_ CMOSP W=100u L=100u M=1
m231 net-_m231-pad1_ -a net-_m221-pad1_ net-_m221-pad1_ CMOSP W=100u L=100u M=1
m232 net-_m231-pad1_ -c net-_m221-pad1_ net-_m221-pad1_ CMOSP W=100u L=100u M=1
m233 net-_m231-pad1_ -c net-_m221-pad1_ net-_m221-pad1_ CMOSP W=100u L=100u M=1
m241 net-_m2111-pad1_ -a net-_m231-pad1_ net-_m231-pad1_ CMOSP W=100u L=100u M=1
m242 net-_m2111-pad1_ -c net-_m231-pad1_ net-_m231-pad1_ CMOSP W=100u L=100u M=1
m243 net-_m2111-pad1_ -c net-_m231-pad1_ net-_m231-pad1_ CMOSP W=100u L=100u M=1
v111  net-_map1-pad3_ -c 5
v22  net-_mbp1-pad3_ -c 5
v33  net-_mbp2-pad3_ -c 5
v44  net-_mbp3-pad3_ -c 5
va1  net-_m111-pad3_ -c 5
m2111 net-_m2111-pad1_ -a net-_m2111-pad3_ net-_m2111-pad3_ CMOSN W=100u L=100u M=1
m2121 net-_m2111-pad3_ -b -c -c CMOSN W=100u L=100u M=1
m2211 net-_m2111-pad1_ -b net-_m2211-pad3_ net-_m2211-pad3_ CMOSN W=100u L=100u M=1
m2221 net-_m2211-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m2311 net-_m2111-pad1_ -a net-_m2311-pad3_ net-_m2311-pad3_ CMOSN W=100u L=100u M=1
m2321 net-_m2311-pad3_ -c net-_m2321-pad3_ net-_m2321-pad3_ CMOSN W=100u L=100u M=1
m2331 net-_m2321-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m2411 net-_m2111-pad1_ -a net-_m2411-pad3_ net-_m2411-pad3_ CMOSN W=100u L=100u M=1
m2421 net-_m2411-pad3_ -c net-_m2421-pad3_ net-_m2421-pad3_ CMOSN W=100u L=100u M=1
m2431 net-_m2421-pad3_ -c -c -c CMOSN W=100u L=100u M=1
vb1  net-_m211-pad3_ -c 5
m311 net-_m311-pad1_ -a net-_m311-pad3_ net-_m311-pad3_ CMOSP W=100u L=100u M=1
m312 net-_m311-pad1_ -c net-_m311-pad3_ net-_m311-pad3_ CMOSP W=100u L=100u M=1
m321 net-_m321-pad1_ -a net-_m311-pad1_ net-_m311-pad1_ CMOSP W=100u L=100u M=1
m322 net-_m321-pad1_ -c net-_m311-pad1_ net-_m311-pad1_ CMOSP W=100u L=100u M=1
m331 net-_m331-pad1_ -b net-_m321-pad1_ net-_m321-pad1_ CMOSP W=100u L=100u M=1
m332 net-_m331-pad1_ -c net-_m321-pad1_ net-_m321-pad1_ CMOSP W=100u L=100u M=1
m341 net-_m3111-pad1_ -a net-_m331-pad1_ net-_m331-pad1_ CMOSP W=100u L=100u M=1
m342 net-_m3111-pad1_ -c net-_m331-pad1_ net-_m331-pad1_ CMOSP W=100u L=100u M=1
m3111 net-_m3111-pad1_ -a net-_m3111-pad3_ net-_m3111-pad3_ CMOSN W=100u L=100u M=1
m3121 net-_m3111-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m3211 net-_m3111-pad1_ -a net-_m3211-pad3_ net-_m3211-pad3_ CMOSN W=100u L=100u M=1
m3221 net-_m3211-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m3311 net-_m3111-pad1_ -b net-_m3311-pad3_ net-_m3311-pad3_ CMOSN W=100u L=100u M=1
m3321 net-_m3311-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m3411 net-_m3111-pad1_ -a net-_m3411-pad3_ net-_m3411-pad3_ CMOSN W=100u L=100u M=1
m3421 net-_m3411-pad3_ -c -c -c CMOSN W=100u L=100u M=1
vc1  net-_m311-pad3_ -c 5
m411 net-_m411-pad1_ -b net-_m411-pad3_ net-_m411-pad3_ CMOSP W=100u L=100u M=1
m412 net-_m411-pad1_ -c net-_m411-pad3_ net-_m411-pad3_ CMOSP W=100u L=100u M=1
m413 net-_m411-pad1_ -c net-_m411-pad3_ net-_m411-pad3_ CMOSP W=100u L=100u M=1
m421 net-_m421-pad1_ -a net-_m411-pad1_ net-_m411-pad1_ CMOSP W=100u L=100u M=1
m422 net-_m421-pad1_ -c net-_m411-pad1_ net-_m411-pad1_ CMOSP W=100u L=100u M=1
m423 net-_m421-pad1_ -c net-_m411-pad1_ net-_m411-pad1_ CMOSP W=100u L=100u M=1
m431 net-_m431-pad1_ a net-_m421-pad1_ net-_m421-pad1_ CMOSP W=100u L=100u M=1
m432 net-_m431-pad1_ -b net-_m421-pad1_ net-_m421-pad1_ CMOSP W=100u L=100u M=1
m433 net-_m431-pad1_ -c net-_m421-pad1_ net-_m421-pad1_ CMOSP W=100u L=100u M=1
m441 net-_m441-pad1_ -a net-_m431-pad1_ net-_m431-pad1_ CMOSP W=100u L=100u M=1
m442 net-_m441-pad1_ -b net-_m431-pad1_ net-_m431-pad1_ CMOSP W=100u L=100u M=1
m443 net-_m441-pad1_ -c net-_m431-pad1_ net-_m431-pad1_ CMOSP W=100u L=100u M=1
m451 net-_m4111-pad1_ -a net-_m441-pad1_ net-_m441-pad1_ CMOSP W=100u L=100u M=1
m452 net-_m4111-pad1_ -c net-_m441-pad1_ net-_m441-pad1_ CMOSP W=100u L=100u M=1
m453 net-_m4111-pad1_ -c net-_m441-pad1_ net-_m441-pad1_ CMOSP W=100u L=100u M=1
m454 net-_m4111-pad1_ -c net-_m441-pad1_ net-_m441-pad1_ CMOSP W=100u L=100u M=1
m4111 net-_m4111-pad1_ -b net-_m4111-pad3_ net-_m4111-pad3_ CMOSN W=100u L=100u M=1
m4121 net-_m4111-pad3_ -c net-_m4121-pad3_ net-_m4121-pad3_ CMOSN W=100u L=100u M=1
m4131 net-_m4121-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m4211 net-_m4111-pad1_ -a net-_m4211-pad3_ net-_m4211-pad3_ CMOSN W=100u L=100u M=1
m4221 net-_m4211-pad3_ -c net-_m4221-pad3_ net-_m4221-pad3_ CMOSN W=100u L=100u M=1
m4231 net-_m4221-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m4311 net-_m4111-pad1_ a net-_m4311-pad3_ net-_m4311-pad3_ CMOSN W=100u L=100u M=1
m4321 net-_m4311-pad3_ -b net-_m4321-pad3_ net-_m4321-pad3_ CMOSN W=100u L=100u M=1
m4331 net-_m4321-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m4411 net-_m4111-pad1_ -a net-_m4411-pad3_ net-_m4411-pad3_ CMOSN W=100u L=100u M=1
m4421 net-_m4411-pad3_ -b net-_m4421-pad3_ net-_m4421-pad3_ CMOSN W=100u L=100u M=1
m4431 net-_m4421-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m4511 net-_m4111-pad1_ -a net-_m4511-pad3_ net-_m4511-pad3_ CMOSN W=100u L=100u M=1
m4521 net-_m4511-pad3_ -c net-_m4521-pad3_ net-_m4521-pad3_ CMOSN W=100u L=100u M=1
m4531 net-_m4521-pad3_ -c net-_m4531-pad3_ net-_m4531-pad3_ CMOSN W=100u L=100u M=1
m4541 net-_m4531-pad3_ -c -c -c CMOSN W=100u L=100u M=1
vd1  net-_m411-pad3_ -c 5
m511 net-_m511-pad1_ -b net-_m511-pad3_ net-_m511-pad3_ CMOSP W=100u L=100u M=1
m521 net-_m5111-pad1_ -a net-_m511-pad1_ net-_m511-pad1_ CMOSP W=100u L=100u M=1
m512 net-_m511-pad1_ -c net-_m511-pad3_ net-_m511-pad3_ CMOSP W=100u L=100u M=1
m513 net-_m511-pad1_ -c net-_m511-pad3_ net-_m511-pad3_ CMOSP W=100u L=100u M=1
m522 net-_m5111-pad1_ -c net-_m511-pad1_ net-_m511-pad1_ CMOSP W=100u L=100u M=1
m523 net-_m5111-pad1_ -c net-_m511-pad1_ net-_m511-pad1_ CMOSP W=100u L=100u M=1
m5111 net-_m5111-pad1_ -b net-_m5111-pad3_ net-_m5111-pad3_ CMOSN W=100u L=100u M=1
m5121 net-_m5111-pad3_ -c net-_m5121-pad3_ net-_m5121-pad3_ CMOSN W=100u L=100u M=1
m5131 net-_m5121-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m5211 net-_m5111-pad1_ -a net-_m5211-pad3_ net-_m5211-pad3_ CMOSN W=100u L=100u M=1
m5221 net-_m5211-pad3_ -c net-_m5221-pad3_ net-_m5221-pad3_ CMOSN W=100u L=100u M=1
m5231 net-_m5221-pad3_ -c -c -c CMOSN W=100u L=100u M=1
ve1  net-_m511-pad3_ -c 5
m611 net-_m611-pad1_ -a net-_m611-pad3_ net-_m611-pad3_ CMOSP W=100u L=100u M=1
m612 net-_m611-pad1_ -c net-_m611-pad3_ net-_m611-pad3_ CMOSP W=100u L=100u M=1
m613 net-_m611-pad1_ -c net-_m611-pad3_ net-_m611-pad3_ CMOSP W=100u L=100u M=1
m621 net-_m621-pad1_ -a net-_m611-pad1_ net-_m611-pad1_ CMOSP W=100u L=100u M=1
m622 net-_m621-pad1_ -c net-_m611-pad1_ net-_m611-pad1_ CMOSP W=100u L=100u M=1
m623 net-_m621-pad1_ -c net-_m611-pad1_ net-_m611-pad1_ CMOSP W=100u L=100u M=1
m631 net-_m631-pad1_ -a net-_m621-pad1_ net-_m621-pad1_ CMOSP W=100u L=100u M=1
m632 net-_m631-pad1_ -c net-_m621-pad1_ net-_m621-pad1_ CMOSP W=100u L=100u M=1
m633 net-_m631-pad1_ -c net-_m621-pad1_ net-_m621-pad1_ CMOSP W=100u L=100u M=1
m641 net-_m6111-pad1_ a net-_m631-pad1_ net-_m631-pad1_ CMOSP W=100u L=100u M=1
m642 net-_m6111-pad1_ -b net-_m631-pad1_ net-_m631-pad1_ CMOSP W=100u L=100u M=1
m643 net-_m6111-pad1_ -c net-_m631-pad1_ net-_m631-pad1_ CMOSP W=100u L=100u M=1
m6111 net-_m6111-pad1_ -a net-_m6111-pad3_ net-_m6111-pad3_ CMOSN W=100u L=100u M=1
m6121 net-_m6111-pad3_ -c net-_m6121-pad3_ net-_m6121-pad3_ CMOSN W=100u L=100u M=1
m6131 net-_m6121-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m6211 net-_m6111-pad1_ -a net-_m6211-pad3_ net-_m6211-pad3_ CMOSN W=100u L=100u M=1
m6221 net-_m6211-pad3_ -c net-_m6221-pad3_ net-_m6221-pad3_ CMOSN W=100u L=100u M=1
m6231 net-_m6221-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m6311 net-_m6111-pad1_ -a net-_m6311-pad3_ net-_m6311-pad3_ CMOSN W=100u L=100u M=1
m6321 net-_m6311-pad3_ -c net-_m6321-pad3_ net-_m6321-pad3_ CMOSN W=100u L=100u M=1
m6331 net-_m6321-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m6411 net-_m6111-pad1_ a net-_m6411-pad3_ net-_m6411-pad3_ CMOSN W=100u L=100u M=1
m6421 net-_m6411-pad3_ -b net-_m6421-pad3_ net-_m6421-pad3_ CMOSN W=100u L=100u M=1
m6431 net-_m6421-pad3_ -c -c -c CMOSN W=100u L=100u M=1
vf1  net-_m611-pad3_ -c 5
m713 net-_m711-pad1_ -c net-_m711-pad3_ net-_m711-pad3_ CMOSP W=100u L=100u M=1
m712 net-_m711-pad1_ -b net-_m711-pad3_ net-_m711-pad3_ CMOSP W=100u L=100u M=1
m711 net-_m711-pad1_ -a net-_m711-pad3_ net-_m711-pad3_ CMOSP W=100u L=100u M=1
m723 net-_m721-pad1_ -c net-_m711-pad1_ net-_m711-pad1_ CMOSP W=100u L=100u M=1
m722 net-_m721-pad1_ -c net-_m711-pad1_ net-_m711-pad1_ CMOSP W=100u L=100u M=1
m721 net-_m721-pad1_ -a net-_m711-pad1_ net-_m711-pad1_ CMOSP W=100u L=100u M=1
m733 net-_m731-pad1_ -c net-_m721-pad1_ net-_m721-pad1_ CMOSP W=100u L=100u M=1
m732 net-_m731-pad1_ -c net-_m721-pad1_ net-_m721-pad1_ CMOSP W=100u L=100u M=1
m731 net-_m731-pad1_ -a net-_m721-pad1_ net-_m721-pad1_ CMOSP W=100u L=100u M=1
m743 net-_m7111-pad1_ -b net-_m731-pad1_ net-_m731-pad1_ CMOSP W=100u L=100u M=1
m742 net-_m7111-pad1_ -c net-_m731-pad1_ net-_m731-pad1_ CMOSP W=100u L=100u M=1
m741 net-_m7111-pad1_ a net-_m731-pad1_ net-_m731-pad1_ CMOSP W=100u L=100u M=1
vg1  net-_m711-pad3_ -c 5
m7411 net-_m7111-pad1_ a net-_m7411-pad3_ net-_m7411-pad3_ CMOSN W=100u L=100u M=1
m7311 net-_m7111-pad1_ -a net-_m7311-pad3_ net-_m7311-pad3_ CMOSN W=100u L=100u M=1
m7211 net-_m7111-pad1_ -a net-_m7211-pad3_ net-_m7211-pad3_ CMOSN W=100u L=100u M=1
m7111 net-_m7111-pad1_ -a net-_m7111-pad3_ net-_m7111-pad3_ CMOSN W=100u L=100u M=1
m7421 net-_m7411-pad3_ -b net-_m7421-pad3_ net-_m7421-pad3_ CMOSN W=100u L=100u M=1
m7321 net-_m7311-pad3_ -c net-_m7321-pad3_ net-_m7321-pad3_ CMOSN W=100u L=100u M=1
m7221 net-_m7211-pad3_ -c net-_m7221-pad3_ net-_m7221-pad3_ CMOSN W=100u L=100u M=1
m7121 net-_m7111-pad3_ -b net-_m7121-pad3_ net-_m7121-pad3_ CMOSN W=100u L=100u M=1
m7431 net-_m7421-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m7331 net-_m7321-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m7231 net-_m7221-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m7131 net-_m7121-pad3_ -c -c -c CMOSN W=100u L=100u M=1
m81 pin-a net-_m1111-pad1_ net-_m81-pad3_ net-_m81-pad3_ CMOSP W=100u L=100u M=1
m82 pin-a net-_m1111-pad1_ -c -c CMOSN W=100u L=100u M=1
v11  net-_m81-pad3_ -c 5
m83 pin-b net-_m2111-pad1_ net-_m83-pad3_ net-_m83-pad3_ CMOSP W=100u L=100u M=1
m84 pin-b net-_m2111-pad1_ -c -c CMOSN W=100u L=100u M=1
v12  net-_m83-pad3_ -c 5
m85 pin-c net-_m3111-pad1_ net-_m85-pad3_ net-_m85-pad3_ CMOSP W=100u L=100u M=1
m86 pin-c net-_m3111-pad1_ -c -c CMOSN W=100u L=100u M=1
v13  net-_m85-pad3_ -c 5
m87 pin-d net-_m4111-pad1_ net-_m87-pad3_ net-_m87-pad3_ CMOSP W=100u L=100u M=1
m88 pin-d net-_m4111-pad1_ -c -c CMOSN W=100u L=100u M=1
v14  net-_m87-pad3_ -c 5
m89 pin-e net-_m5111-pad1_ net-_m89-pad3_ net-_m89-pad3_ CMOSP W=100u L=100u M=1
m90 pin-e net-_m5111-pad1_ -c -c CMOSN W=100u L=100u M=1
v15  net-_m89-pad3_ -c 5
m91 pin-f net-_m6111-pad1_ net-_m91-pad3_ net-_m91-pad3_ CMOSP W=100u L=100u M=1
m92 pin-f net-_m6111-pad1_ -c -c CMOSN W=100u L=100u M=1
v16  net-_m91-pad3_ -c 5
m93 pin-g net-_m7111-pad1_ net-_m93-pad3_ net-_m93-pad3_ CMOSP W=100u L=100u M=1
m94 pin-g net-_m7111-pad1_ -c -c CMOSN W=100u L=100u M=1
v17  net-_m93-pad3_ -c 5
v1s1  a -c 5
* u1  pin-a plot_v1
* u2  pin-b plot_v1
* u3  pin-c plot_v1
* u4  pin-d plot_v1
* u5  pin-e plot_v1
* u6  pin-f plot_v1
* u7  pin-g plot_v1
.dc v1s1 0e-00 5e-00 0.1e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(pin-a)
plot v(pin-b)
plot v(pin-c)
plot v(pin-d)
plot v(pin-e)
plot v(pin-f)
plot v(pin-g)
.endc
.end
